US04148814
Following the procedure outlined in Example 1, except that di-n-octyltin dichloride is used in place of dimethyltin dichloride, n-octyl chloride in place of methyl chloride, and tetramethylenemethylsulfonium iodide in place of trimethylsulfonium iodide, there is obtained n-octyltin trichloride.

reactant | di-n-octyltin dichloride | C(CCCCCCC)[Sn](CCCCCCCC)(Cl)Cl
reactant | n-octyl chloride | C(CCCCCCC)Cl | C8H17Cl
product | n-octyltin trichloride | C(CCCCCCC)[Sn](Cl)(Cl)Cl | InChI=1S/C8H17.3ClH.Sn/c1-3-5-7-8-6-4-2;;;;/h1,3-8H2,2H3;3*1H;/q;;;;+3/p-3
